US09238644B2
(c) 1-(2-Iodophenyl)cyclobutanecarboxylic acid (A52)
A solution of 1-phenyl-1-cyclobutanecarboxylic acid (2.00 g, 11.4 mmol) in DMF (10 mL) containing palladium (II) acetate (0.109 g, 0.567 mmol), iodine (2.16 g, 8.51 mmol) and (diacetoxyiodo)benzene (2.47 g, 8.51 mmol) was stirred at 60° C. for 18 hours in the absence of light. Additional iodine (2.16 g, 8.51 mmol) and (diacetoxyiodo)benzene (2.47 g, 8.51 mmol) were added and stirring was continued at 60° C. for 8 hours. A final addition of iodine (2.16 g, 8.51 mmol) and (diacetoxyiodo)benzene (2.47 g, 8.51 mmol) was performed and stirring was continued at 60° C. for 16 hours. The reaction mixture was partitioned between EtOAc and water and the aqueous phase was extracted several times with EtOAc. The combined organic fractions were washed with 10% sodium metabisulfate (3×30 mL), 10% citric acid (2×30 mL), water, brine, and then dried (MgSO4), filtered and the solvent evaporated. The crude product was dry loaded onto silica gel and the product was separated using silica column chromatography (Biotage Isolera, 40 g SiO2 Cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A52 as a cream solid (425 mg, 12%). LCMS-A: rt 5.711 min.

reactant | 1-phenyl-1-cyclobutanecarboxylic acid | 11.4 mmol, 2.00 g | C1(=CC=CC=C1)C1(CCC1)C(=O)O | C11H12O2
reactant | iodine | 8.51 mmol, 2.16 g | II | I2
reactant | (diacetoxyiodo)benzene | 8.51 mmol, 2.47 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | iodine | 8.51 mmol, 2.16 g | II | I2
reactant | (diacetoxyiodo)benzene | 8.51 mmol, 2.47 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | iodine | 8.51 mmol, 2.16 g | II | I2
reactant | (diacetoxyiodo)benzene | 8.51 mmol, 2.47 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 0.567 mmol, 0.109 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(2-Iodophenyl)cyclobutanecarboxylic acid | IC1=C(C=CC=C1)C1(CCC1)C(=O)O | C11H11IO2
